US08193351B2
Step 9: 4-(5-Chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazine-2-thiol
Potassium thioacetate (2.54 g, 22.2 mmol) was added to a suspension of 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazin-2-ylamine (4.00 g, 11.1 mmol) in N,N-dimethylformamide (100 mL) at room temperature. After the mixture was stirred at room temperature for 6 hours, an 2N aqueous sodium hydroxide solution (100 mL) was added thereto. After the reaction solution was stirred at room temperature for 30 minutes, the pH was adjusted to 5 to 6 with 1N hydrochloric acid. Water (200 mL) was further added to the solution, and the precipitate was collected by filtration. The precipitate was washed in succession with water and diethyl ether, and then dried under reduced pressure. The title compound was obtained as brown solid (3.25 g, 88%).

reactant | Potassium thioacetate | 22.2 mmol, 2.54 g | C(C)(=S)[O-].[K+]
reactant | 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazin-2-ylamine | 11.1 mmol, 4.00 g | ClC1C(C=2C=3C(COCC3C=CC2)=C1)(C#N)C1=NC(=NC(=N1)S(=O)C)N | C17H14ClN5O2S
reactant | sodium hydroxide | 2N, 100 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | 200 mL | O | H2O
product | 4-(5-Chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazine-2-thiol | ClC1C(C=2C=3C(COCC3C=CC2)=C1)(C#N)C1=NC(=NC(=N1)S(=O)C)S | C17H13ClN4O2S2
